US09024027B2
To a solution of 5,6-dichloroisobenzofuran-1,3-dione (2 g, 9.22 mmol) in xylene (10 ml), 2-aminoacetic acid (0.761 g, 10.14 mmol) was added, and the reaction was heated at 160° C. for 40 hours. The precipitate that formed during the reaction was filtered, washed with water and hexanes and dried affording 2-(5,6-dichloro-1,3-dioxoisoindolin-2-yl)acetic acid (2.33 g, 8.50 mmol, 92% yield).

reactant | 5,6-dichloroisobenzofuran-1,3-dione | 9.22 mmol, 2 g | ClC=1C=C2C(OC(C2=CC1Cl)=O)=O | C8H2Cl2O3
reactant | 2-aminoacetic acid | 10.14 mmol, 0.761 g | NCC(=O)O | C2H5NO2
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(5,6-dichloro-1,3-dioxoisoindolin-2-yl)acetic acid | 8.50 mmol, 2.33 g, 92% yield | ClC=1C=C2C(N(C(C2=CC1Cl)=O)CC(=O)O)=O | C10H5Cl2NO4
